US06191124B1
A solution of 2,3-Dimethyl-α-(2-phenyl-E-ethenyl)imidazo[2,1-b]thiazole-5-methanone (FIG. D-2) (0.34 g) in 1:1 ethanol:THF (40 mL) was treated with a solution of NaBH4 (0.35 g) in ethanol (5 mL). The solution was reacted for 2.5 hours, evaporated in vacuo, and the residue was diluted with water. The precipitated 2,3-Dimethyl-α-(2-phenylethenyl)imidazo[2,1-b]thiazole-5-methanol (FIG. D-5) was extracted into ethyl acetate, the extract was dried and evaporated to a viscous residue. The residue was triturated with ethyl acetate to yield 2,3-Dimethyl-α-(2-phenylethenyl)imidazo[2,1-b]thiazole-5-methanol (FIG. D-5), 0.28 g, m.p. 149-151° after crystallization from acetonitrile.

reactant | 2,3-Dimethyl-α-(2-phenyl-E-ethenyl)imidazo[2,1-b]thiazole-5-methanone | 0.34 g | CC1=C(N2C(S1)=NC=C2C(=O)\C=C\C2=CC=CC=C2)C | C16H14N2OS
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | NaBH4 | 0.35 g | [BH4-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2,3-Dimethyl-α-(2-phenylethenyl)imidazo[2,1-b]thiazole-5-methanol | CC1=C(N2C(S1)=NC=C2C(O)C=CC2=CC=CC=C2)C | C16H16N2OS
